US04435570
Production of 2-amino-5-(p-iodobenzyl)aminomethylpyrrolo[2,3-d]pyrimidin-4-one
In 40 ml of dry methanol were suspended 126 mg of 2-amino-5-aminomethylpyrrolo[2,3-d]pyrimidin-4-one (dihydrochloride) and 116 mg of p-iodobenzaldehyde. After addition of 1 N methanolic sodium methoxide, the mixture was stirred at room temperature for 30 min. To this mixture was added 76 mg of sodium borohydride and the reaction was conducted at room temperature for 15 min. The reaction was then terminated by addition of 500 mg silica gel. The solvent was distilled off under reduced pressure and the residue was purified by silica gel chromatography to give 121 mg of the desired compound.

reactant | 2-amino-5-aminomethylpyrrolo[2,3-d]pyrimidin-4-one | 126 mg | NC1=NC(C=2C(=N1)N=CC2CN)=O | C7H7N5O
reactant | p-iodobenzaldehyde | 116 mg | IC1=CC=C(C=O)C=C1 | C7H5IO
reactant | sodium methoxide | 1 N | C[O-].[Na+]
reactant | sodium borohydride | 76 mg | [BH4-].[Na+]
solvent | methanol | 40 ml | CO | CH4O
product | 2-amino-5-(p-iodobenzyl)aminomethylpyrrolo[2,3-d]pyrimidin-4-one | 121 mg | NC1=NC(C=2C(=N1)N=CC2CNCC2=CC=C(C=C2)I)=O | C14H12IN5O
